US07919496B2
SYNTHESIS OF 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure as described in Example 3, making variations only as required to use 2-cyclopropylethylamine in place of isoamylamine to react with 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid (0.90 g, 83% yield). 1H NMR (500 MHz, CDCl3) δ 7.74 (d, J=7.8 Hz, 1H), 7.64 (dd, J=7.5, 7.5 Hz, 1H), 7.57 (dd, J=7.5, 7.5 Hz, 1H), 7.35 (d, J=7.5 Hz, 1H), 7.19 (t, J=5.8 Hz, 1H), 4.04-4.10 (m, 1H), 3.86-3.92 (m, 1H), 3.64-3.75 (m, 2H), 3.49-3.56 (m, 4H), 3.33-3.37 (m, 2H), 1.51 (dt, 2H, J=7.0, 7.0 Hz), 0.68-0.75 (m, 1H), 0.46-0.51 (m, 2H), 0.08-0.12 (m, 2H). MS (ES+) m/z 454.2 (M+1).

reactant | 2-cyclopropylethylamine | C1(CC1)CCN | C5H11N
reactant | 5-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl][1,3,4]thiadiazole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H17F3N4O3S
product | 5-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-[1,3,4]THIADIAZOLE-2-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1SC(=NN1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C20H22F3N5O2S
